US05658854
c) Methyl 3-amino-2-benzylmercaptobenzoate
69.8 g of iron powder are added in portions to a mixture of 68.0 g (0.22 mol) of methyl 2-benzylmercapto-3-nitrobenzoate, 215 ml of glacial acetic acid and 480 ml of water. The reaction solution is then stirred at 50°-60° C. for 3 h. The solid is separated off by filtration and then the mother liquor is washed with water and salt and subsequently dried over MgSO4. After concentration of the solution under reduced pressure, 47.1 g of a yellow oil (77%) are obtained; 1H NMR (CDCl3, 80 MHz): δ=3.8 (s, 3H, OCH3), 3.9 (s, 2H, SCH2Ph), 5.9 (s, 2H, NH2), 6.6-7.3 (m, 8H, Harom.).

reactant | methyl 2-benzylmercapto-3-nitrobenzoate | 0.22 mol, 68.0 g | C(C1=CC=CC=C1)SC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C15H13NO4S
reactant | acetic acid | 215 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 69.8 g | [Fe] | Fe
solvent | water | 480 ml | O | H2O
product | Methyl 3-amino-2-benzylmercaptobenzoate | 47.1 g, 77% | NC=1C(=C(C(=O)OC)C=CC1)SCC1=CC=CC=C1 | C15H15NO2S
